US08865712B2
b) 1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-ethanone
A solution of diisopropylamine (25.4 g, 250 mmol) in 500 ml THF was cooled to −75° C. BuLi (100 ml, 250 mmol, 2.5 M in hexanes) was added dropwise while maintaining the temperature below −50° C. After the reaction temperature had reached −75° C. again, a solution of 2-bromo-5-fluoro-4-triethylsilanyl-pyridine (56.04 g, 193 mmol) in 60 ml THF was added dropwise. The mixture was stirred in a dry ice bath for 70 minutes. N,N-dimethylacetamide (21.87 g, 250 mmol) was added quickly, the reaction temperature rose to −57° C. The reaction mixture was stirred in a dry ice bath for 15 min and then allowed to warm to −40° C. It was poured on a mixture of 2M aq. HCl (250 ml, 500 mmol), 250 ml water and 100 ml brine. The mixture was extracted with TBME, washed with brine, dried over MgSO4.H2O, filtered and evaporated to give a yellow oil which was purified on a silica gel column by eluting with hexane/0-5% TBME to yield 58.5 g of the title compound as a yellow liquid. TLC (Hex/TBME 99/1): Rf=0.25; HPLC: RtH11=1.921 min; ESIMS: 332, 334 [(M+H)+, 1Br]; 1H-NMR (400 MHz, CDCl3): 7.57 (d, 1H), 2.68 (s, 3H), 1.00-0.84 (m, 15H).

reactant | diisopropylamine | 250 mmol, 25.4 g | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 250 mmol, 2.5 M, 100 ml | [Li]CCCC
reactant | 2-bromo-5-fluoro-4-triethylsilanyl-pyridine | 193 mmol, 56.04 g | BrC1=NC=C(C(=C1)[Si](CC)(CC)CC)F | C11H17BrFNSi
reactant | N,N-dimethylacetamide | 250 mmol, 21.87 g | CN(C(C)=O)C | C4H9NO
reactant | HCl | 500 mmol, 2M, 250 ml | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | water | 250 ml | O | H2O
product | 1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-ethanone | 58.5 g | BrC1=CC(=C(C(=N1)C(C)=O)F)[Si](CC)(CC)CC | C13H19BrFNOSi
